US06964974B2
In analogy to example 1.2a, 1.3, 1.4 and 1.5, reaction of 4-Hydroxy-piperidine with 1,5-dibromopentane, (4-fluoro-phenyl)-acetyl chloride and diethylamine yielded 1-[4-(5-Diethylamino-pentyloxy)-piperidin-1-yl]-2-(4-fluoro-phenyl)-ethanone, MS: 379 (MH+).

reactant | 4-Hydroxy-piperidine | OC1CCNCC1 | C5H11NO
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
reactant | (4-fluoro-phenyl)-acetyl chloride | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | diethylamine | C(C)NCC | C4H11N
product | 1-[4-(5-Diethylamino-pentyloxy)-piperidin-1-yl]-2-(4-fluoro-phenyl)-ethanone | C(C)N(CCCCCOC1CCN(CC1)C(CC1=CC=C(C=C1)F)=O)CC | C22H35FN2O2
